US04446028
Isopropenyl Phosphonic Acid/Acrylamide Copolymer (1:1 molar ratio)
Aqueous isopropenyl phosphonic acid (47 g; 54%, 0.2 mole) and aqueous acrylamide (28 g, 50%, 0.2 mole) were mixed in a resin kettle as previously described. Ammonium persulfate (6 g) and an additional 84 g of water were then added. The solution was sparged with nitrogen for 1/2 hour and heated to reflux. After 11/2 hours, an additional 6 g of initiator was added followed by an additional 11/2 hours of reflux. The aqueous product was yellow with a final pH of 1.3. The 31PMR showed polymeric absorptions at δ=-30.2 to -33.7 ppm and -25 to -29 ppm.

reactant | isopropenyl phosphonic acid | 0.2 mole, 47 g | C(=C)(C)P(O)(O)=O | C3H7O3P
reactant | acrylamide | 0.2 mole, 28 g | C(C=C)(=O)N | C3H5NO
reactant | Ammonium persulfate | 6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 84 g | O | H2O
product | Isopropenyl Phosphonic Acid Acrylamide | C(=C)(C)P(O)(O)=O.C(C=C)(=O)N | InChI=1S/C3H5NO.C3H7O3P/c1-2-3(4)5;1-3(2)7(4,5)6/h2H,1H2,(H2,4,5);1H2,2H3,(H2,4,5,6)
